US06821984B2
To a solution of 55 mg of 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-ylamine in 3 mL of dichloroethane was added 29 μL of propionaldehyde followed a few minutes later by 124 mg of sodium triacetoxyborohydride. The reaction mixture was stirred at room temperature for 2 d, during which time an additional 30 mL of propionaldehyde and an additional 62 mg of sodium triacetoxyborohydride were added to drive the reaction to completion. The mixture was then diluted with dichloromethane and washed with dilute aqueous sodium hydroxide. The organics were dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel eluting with an acetone/hexane gradient to provide a solid which was recrystallized from hexane to give 17 mg of [7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]dipropylamine, mp 90-91° C.

reactant | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-ylamine | 55 mg | ClC1=C(C(=CC(=C1)C)C)N1C=2C(CCC1)=C(N(N2)C)N | C15H19ClN4
reactant | propionaldehyde | 29 μL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 124 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | propionaldehyde | 30 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 62 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]dipropylamine | 17 mg | ClC1=C(C(=CC(=C1)C)C)N1C=2C(CCC1)=C(N(N2)C)N(CCC)CCC | C21H31ClN4
